US09079866B2
5-{2′-[(3,3-Difluoroazetidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-3,3-difluoroazetidine. MS (ESI): mass calcd. for C19H15F3N4O2S, 420.09; m/z found, 421.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37-8.26 (m, 2H), 8.14-8.07 (m, 1H), 8.02-7.95 (m, 1H), 7.77-7.69 (m, 1H), 7.66-7.57 (m, 1H), 7.48-7.40 (m, 1H), 7.35-7.24 (m, 2H), 4.02-3.92 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-3,3-difluoroazetidine | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(C1)(F)F | C9H8BrF2NO2S
product | 5-{2′-[(3,3-Difluoroazetidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | FC1(CN(C1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)F | C19H15F3N4O2S
